US08471005B2
Into a 8-dram vial, Palladium Acetate (0.021 g, 0.000094 mol) and Triphenylphosphine (0.069 g, 0.00026 mol) were added. The mixture was purged under an atmosphere of Nitrogen for 10 minutes. 1,4-Dioxane (7.10 mL) was added and stirred for 10 minutes at room temperature. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine (0.35 g, 0.00094 mol), 3-Formylphenyl boronic acid (0.280 g, 0.00187 mol), N,N-Dimethylformamide (14 mL), and 1.50 M of Sodium carbonate in Water (5.61 mL, 8.42 mmol) were added. The reaction was heated at 90° C. for 3 hours. The reaction was partitioned with water and EtOAc. The organic was separated, washed with Brine, and dried over magnesium sulfate. The solid was filtered and washed with EtOAc. The solvent was removed under vacuum. The product was isolated via column chromatography with DCM and Methanol as eluant (0 to 10% MeOH). The collected fractions afforded a solid. The solid was triturated with Et2O and filtered to give 3-[2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzaldehyde as a yellow (0.20 g, 50%).

reactant | Triphenylphosphine | 0.00026 mol, 0.069 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | 0.00094 mol, 0.35 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 3-Formylphenyl boronic acid | 0.00187 mol, 0.280 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 8.42 mmol, 5.61 mL | O | H2O
catalyst | Palladium Acetate | 0.000094 mol, 0.021 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-Dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | 3-[2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzaldehyde | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=C(C=O)C=CC2 | C23H21N5O2
